US07538112B2
Step 8: 2-(4-Fluorobenzyl)-10-hydroxy-6,8-dimethyl-7,8-dihydropyrazino-[1′,2′:1,5]-pyrrolo[2,3-d]pyridazine-1,9(2H,6H)-dione
A mixture of 10-(benzyloxy)-2-(4-fluorobenzyl)-6,8-dimethyl-7,8-dihydropyrazino-[1′,2′:1,5]pyrrolo-[2,3-d]pyridazine-1,9(2H,6H)-dione (99 mg, 0.22 mmol) and Pearlman's catalyst (20 mg, 20% Pd(OH)2 on carbon) in methanol (2 mL) was stirred under an atmosphere of hydrogen gas (1 atm) at room temperature for one hour. The reaction mixture was filtered through a pad of Celite. The filtrate was concentrated under vacuum, and the residue triturated with diethyl ether. The solid precipitated was obtained by filtration to provide the titled product.

reactant | 10-(benzyloxy)-2-(4-fluorobenzyl)-6,8-dimethyl-7,8-dihydropyrazino-[1′,2′:1,5]pyrrolo-[2,3-d]pyridazine-1,9(2H,6H)-dione | 0.22 mmol, 99 mg | C(C1=CC=CC=C1)OC1=C2N(C=3C=NN(C(C31)=O)CC3=CC=C(C=C3)F)C(CN(C2=O)C)C | C25H23FN4O3
catalyst | Pearlman's catalyst | 20 mg | [OH-].[OH-].[Pd+2]
solvent | methanol | 2 mL | CO | CH4O
product | 2-(4-Fluorobenzyl)-10-hydroxy-6,8-dimethyl-7,8-dihydropyrazino-[1′,2′:1,5]-pyrrolo[2,3-d]pyridazine-1,9(2H,6H)-dione | FC1=CC=C(CN2N=CC3=C(C2=O)C(=C2N3C(CN(C2=O)C)C)O)C=C1 | C18H17FN4O3
